Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
___ Interventional Pulmonology: Tumor debulking and 
bilateral stent placement in the main stem bronchi

___ CT Chest Angiogram: Used to assess for any PE or 
post-surgical complications. Preliminary read showed no 
pulmonary emboli were identified at the lobar level though more 
distal emboli were not excluded. 

 
History of Present Illness:
Ms. ___ is a ___ year old prior nurse ___/ depression, anxiety, 
fibromyalgia, and sciatica who presented with dyspnea, diagnosed 
with NSCLC compressing her mainstem bronchi at ___, 
transferred to ___ for bronchoscopy with placement of 
bronchial stents. 

Patient was treated for a pneumonia this past ___, but 
otherwise reports feeling well until 4 weeks prior to admission. 
She first noted a cough. Then food began feeling lodged in her 
throat and she became unable to keep food down, leading to 
weight loss of about 30 lbs over the past month. Two weeks prior 
to admission, the patient felt she as though she were gasping 
for air when she coughed, and she presented to ___ 
where imaging and biopsy showed NSCLC compressing her main 
bronchi bilaterally. She also experienced low grade fevers. At 
___, she was started on nebulizers and predisone 
40mg PO QD (starting ___ for hypoxia, was treated with a 
course of ceftriaxone x 10d for post obstructive PNA, and was 
treated for pain with oxycodone 30mg PO q6H (per palliative care 
team) in the setting of her fibromyalgia, sciatica, and 
psychiatric history. 

Pt endorses chest pain that radiates to the left side of her 
chest, continued difficulty breathing, and vaginal itching. She 
denies fevers, chills, N/V, abd pain, changes in bowel or 
bladder movement, dysuria, myalgias and arthralgias. 
 
 
Past Medical History:
Depression  
Anxiety  
Fibromyalgia  
Sciatica  

s/p tubal ligation
s/p venous stripping
 
 
Social History:
___
Family History:
Mother: DM, dementia, schizophrenia NOS, bipolar  
Father: deceased from subdural hematoma  
Brother: schizophrenia NOS, bipolar
 
Physical Exam:
Admission Physical Exam
Vitals:  98.0   78  106/66  20  95% on FM
General: alert, oriented, labored rhoncorous breathing on FM
HEENT: sclera anicteric, oropharynx clear with opaque mucous  
Neck: supple, JVP not elevated, no LAD  
Lungs: inspiratory and expiratory wheezing, rhonchi and rales 
bilaterally anteriorly and posteriorly 
CV: RRR, no r/g/m  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no edema  
Neuro: CNs2-12 intact, pupils equal round and reactive to light, 
motor function grossly normal 

Discharge Physical Exam
Vitals:  98.3  98.3  77  125/63  16  95RA
General: alert, oriented, laying in bed, breathing comfortably 
on room air
HEENT: sclera anicteric, MMM, oropharynx clear   
Lungs: lungs rhoncorous bilaterally with mild wheezing
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused
Neuro: CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
ADMISSION LABS:
___ 04:58AM   GLUCOSE-91 UREA N-18 CREAT-0.6 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-95* TOTAL CO2-31 ANION GAP-14

___ 04:58AM   WBC-14.8* RBC-4.26 HGB-12.6 HCT-39.6 MCV-93 
MCH-29.6 MCHC-31.8* RDW-13.2 RDWSD-44.2
___ 04:58AM   PLT COUNT-434*
___ 04:58AM   ___ PTT-30.5 ___
___ 04:58AM   ALBUMIN-3.0* CALCIUM-8.9 PHOSPHATE-3.4 
MAGNESIUM-2.1
___ 04:58AM   ALT(SGPT)-38 AST(SGOT)-19 ALK PHOS-98 TOT 
BILI-0.3

CTA Chest:
IMPRESSION:  
1. Suboptimal opacification of the pulmonary arteries. Within 
this 
limitation, no obvious pulmonary embolism. 
2. Large mediastinal mass, slightly larger than on the prior 
study. Patent 
left mainstem and right bronchus intermedius stents. 
3. Fluid-filled esophagus at the level of carina, which may 
predispose to 
aspiration. 

DISCHARGE LABS:
___ 08:46AM BLOOD Glucose-118* UreaN-8 Creat-0.6 Na-135 
K-4.1 Cl-97 HCO3-31 AnGap-11
___ 08:46AM BLOOD Calcium-8.2* Phos-3.3 Mg-2.___ w/ depression, anxiety, fibromyalgia, and sciatica who 
presented with dyspnea, diagnosed with NSCLC compressing her 
main stem bronchi at ___, transferred for placement 
of bronchial stenting. 

# NSCLC: The patient was diagnosed with NSCLC, consistent with 
adenocarcinoma, with extrinsic compression of both main stem 
bronchi, transferred for endobronchial stenting by 
Interventional Pulmonology. The oncology team at ___ 
___ has had work-up with negative head CT and CTA A/P for 
metastatic disease with plans for potential chemo/XRT after 
stenting. On admission, the patient required 6L NC via Venturi 
mask. On ___, the patient underwent tumor debulking and 
placement of bronchial stents bilaterally. The patient was 
saturating well on room air following the procedure and started 
a 14 day course of Unasyn inpatient transitioned to Augmentin 
outpatient 875mg PO BID (first day ___. 

# Depression/anxiety: Patient continued on her home ALPRAZolam 1 
mg PO/NG QAM, ALPRAZolam 2 mg PO/NG QHS, BusPIRone 15 mg PO BID, 
Escitalopram Oxalate 20 mg PO/NG DAILY. 

# Fibromyalgia: The patient's pain management was optimized with 
her outpatient and palliative care teams. For pain control, the 
patient continued on Morphine SR (MS ___ 30 mg PO Q8H, 
Morphine Sulfate (Oral Solution) 2 mg/mL ___ mg PO Q3H:PRN 
pain, anxiety, dyspnea, and Gabapentin 200 mg PO/NG TID at OSH. 

# Vaginal pruritis: Patient likely had vaginal candidiasis and 
was treated with Miconazole Nitrate Vag Cream 2% 1 Appl VG QD: 
PRN. 
 
# Tobacco abuse: Patient continued on a Nicotine Patch 21 mg 
daily. 

TRANSITIONAL ISSUES:
- Needs to be connected to oncology at ___
- Needs follow up with interventional pulmonology in 6 weeks 
with a CT chest scan
- Needs continued pain management by primary care and oncology 
teams
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. ALPRAZolam 1 mg PO QAM 
3. ALPRAZolam 2 mg PO QHS 
4. BusPIRone 15 mg PO BID 
5. Diazepam 5 mg PO DAILY:PRN anxiety  
6. OxycoDONE (Immediate Release)  30 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. ALPRAZolam 1 mg PO QAM 
2. ALPRAZolam 2 mg PO QHS 
3. BusPIRone 15 mg PO BID 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Diazepam 5 mg PO DAILY:PRN anxiety  
6. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN dyspnea  
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inhaled q4 hr 
Disp #*60 Vial Refills:*0
7. Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*180 Capsule Refills:*0
8. Guaifenesin ER 1200 mg PO Q12H 
RX *guaiFENesin  1200 mg by mouth twice a day Disp #*60 Tablet 
Refills:*0
9. Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine [Lidoderm] 5 % Lidoderm 5% patch q ___ q ___ Disp 
#*30 Patch Refills:*0
10. Miconazole Nitrate Vag Cream 2% 1 Appl VG QD: PRN vaginal 
___: 7 Days 
RX *miconazole nitrate [Miconazole 7] 2 % 2% vaginal cream 1 
application once a day Disp #*1 Tube Refills:*0
11. Morphine Sulfate (Oral Solution) 2 mg/mL ___ mg PO Q3H:PRN 
pain, anxiety, dyspnea  
RX *morphine 10 mg/5 mL 10 mg by mouth q3hr Refills:*0
12. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 21 mg TD q 24 Disp #*28 Patch 
Refills:*0
13. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 
nebulizer inhaled q 6 hr Disp #*100 Ampule Refills:*0
14. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 12 Days 

last day of antibiotics on ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
q12hr Disp #*23 Tablet Refills:*0
15. Morphine SR (MS ___ 30 mg PO Q8H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth q8hr Disp 
#*90 Tablet Refills:*0
16. Equipment:
Nebulizer Machine.
ICD 10: C34.90 Non small cell carcinoma of the lung.
Duration of use: 13 months
To be used with nebulizers as prescribed.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Non-small cell lung cancer
post-obstructive pneumonia

Secondary:
Vaginal candidiasis
Fibromyalgia
Depression
Anxiety
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___. 

You were transferred with a tumor compressing your bronchi 
(smaller airways) leading to difficulty breathing. The 
interventional pulmonology team took you to the operating room 
on ___ to remove some of your tumor and place stents in 
your airways. After the surgery, your breathing improved. 

You also have experienced episodes of chest pain, that was 
reproducible with pressing on your chest. Some of the chest pain 
can occur following your surgery. An electrocardiogram looking 
at your heart and lab tests sent were normal. We are reassured 
that there are no acute issues with your heart that need 
immediate interventions.

Finally, you were experiencing episodes of tachycardia, with 
fast heart beats. The EKGs we captured of your heart were 
normal, and the episodes of tachycardia seems to have decreased 
following management of your post-surgical pain. We recommend 
following up with your primary care physician about further work 
up.  

Please continue using the Acapella flutter valve twice a day to 
help loosen the secretions in your air ways, which will help 
prevent pneumonia. 

Please seek immediate care if you experience fevers, chills, 
chest pain, difficulty breathing, coughing up blood, or any 
other concerning symptoms. 

We wish you the best in your health!

Your ___ care team

 
Followup Instructions:
___